US08003649B2
6-Chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (120 mg, 0.54 mmol), DIPEA (0.094 mL, 0.54 mmol) and 1-[2-(4-fluorophenyl)propan-2-yl]piperazine (obtained as described in J. Med. Chem. 2007, 50, 3528) (120 mg, 0.54 mmol) in DMF (1.5 mL) were stirred and heated at 80° C. for 1 hour. The resulting solution was cooled to room temperature then applied to an SCX column and eluted with MeOH followed by 2M ammonia in methanol. Fractions containing product were combined and evaporated, then purified by preparative HPLC (Waters XTerra C18 column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 6-[4-[1-(4-fluorophenyl)-1-methylethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (155 mg, 70%) as a colourless solid.

reactant | 6-Chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.54 mmol, 120 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | DIPEA | 0.54 mmol, 0.094 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[2-(4-fluorophenyl)propan-2-yl]piperazine | 0.54 mmol, 120 mg | FC1=CC=C(C=C1)C(C)(C)N1CCNCC1 | C13H19FN2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-[4-[1-(4-fluorophenyl)-1-methylethyl]piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 155 mg, 70% | FC1=CC=C(C=C1)C(C)(C)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C19H20F4N6
